US07253286B2
Methyl 4-(4-amino-3-chlorophenoxy)-7-methoxy-6-quinolinecarboxylate
After dissolving 4-amino-3-chlorophenol (3.17 g, 22.05 mmol) in dimethylsulfoxide (50 ml), sodium hydride (882 mg, 22.05 mmol) was gradually added at room temperature and the mixture was stirred for 30 minutes. The 4-chloro-7-methoxy-6-methoxycarbonylquinoline (3.70 g, 14.7 mmol) described in WO0050405 was added, and the mixture was heated at 100° C. for 3 hours. After standing to cool to room temperature, the reaction solution was distributed between ethyl acetate and water, and the organic layer was washed with water and saturated brine and dried over anhydrous sodium sulfate. The solvent was distilled off, silica gel column chromatography (eluent—ethyl acetate) was performed, the fraction containing the target substance was concentrated, suspended in ethyl acetate and diluted with hexane, and the crystals were filtered out and blow-dried to obtain the title compound (3.092 g, 8.62 mmol, 57.4%) as light brown crystals.

reactant | 4-amino-3-chlorophenol | 22.05 mmol, 3.17 g | NC1=C(C=C(C=C1)O)Cl | C6H6ClNO
reactant | sodium hydride | 22.05 mmol, 882 mg | [H-].[Na+]
reactant | 4-chloro-7-methoxy-6-methoxycarbonylquinoline | 14.7 mmol, 3.70 g | ClC1=CC=NC2=CC(=C(C=C12)C(=O)OC)OC | C12H10ClNO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | Methyl 4-(4-amino-3-chlorophenoxy)-7-methoxy-6-quinolinecarboxylate | 8.62 mmol, 3.092 g, 57.4% | NC1=C(C=C(OC2=CC=NC3=CC(=C(C=C23)C(=O)OC)OC)C=C1)Cl | C18H15ClN2O4
